US05703052
(3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-11-(trimethylsilyloxy)-12-acetoxyspirostane:
(3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-12-acetoxyspirostan-11-ol was silylated with trimethylsilyltrifiate and 2,6-lutidine in methylene chlodde according to the procedure described in Tetrahadron Letters, 1981, 22, 3455.

reactant | (3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-12-acetoxyspirostan-11-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H]([C@@H]([C@@H]3[C@]2(CC1)C)O)OC(C)=O)C | C35H60O6Si
reactant | trimethylsilyltrifiate | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
product | (3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-11-(trimethylsilyloxy)-12-acetoxyspirostane | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H]([C@@H]([C@@H]3[C@]2(CC1)C)O[Si](C)(C)C)OC(C)=O)C | C38H68O6Si2
